Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Bactrim / Morphine
 
Attending: ___.
 
Chief Complaint:
Recurrent right pneumothorax
 
Major Surgical or Invasive Procedure:
___: Video-assisted thoracoscopic right apical
blebectomy and mechanical and chemical (1 gram doxycycline)
pleurodesis.

___: Right 4gram talc pleurodiesis.

 
History of Present Illness:
Mr. ___ is a ___ year-old male with COPD.  He presented to ___, ___ on ___ for increased shortness of 
breath. A chest film revealed a right pneumothorax, a chest tube 
was placed to suction, on ___ pleurodesis with 1 gm Doxy was 
done, resolution of pneumothorax by chest film, RLL infiltrates 
were also seen, sputum culture grew pseudomonas treated with
Zosyn changed to Fortaz.  He was discharged on ___.  He 
returned to the ED on ___ with decreased oxygen saturation and 
increased respiratory effort. He was admitted, chest film today 
showed recurrent right apical pneumothorax a chest tube was 
placed and he transferred to ___ for further management. 

 
Past Medical History:
Right Lower lobe lung nodule s/p R VATs wedge for Squamous cell
___
Left pneumothorax s/p L VATs blebectomy pleurodesis ___
Severe chronic obstructive pulmonary disease on home 02 3L
___ disease
Hypertension
Diverticulosis
Associated lower GI Bleed
Right lower lobe pneumonia

PSH: R VATS wedge resection ___, L VATS 
blebectomy/pleurodesis
___, Bowel perforation ___, right inguinal hernia repair, 
right
shoulder dislocation 

 
Social History:
___
Family History:
Lung and cardiac disease

 
Physical Exam:
VS: 67.2  90  111/61  20  91%4L
General: ___ year-old male in no apparent distress
HEENT: normocephalic, mucus membranes moist
Neck: supple no lymphadenopathy
Card: RRR normal S1,S2 no murmur/gallop or rub
Resp: decreased breath sounds with bibasilar crackles no wheezes
GI: bowel sounds positive, abdomen soft 
non-tender/non-distended.
Extr: warm no edema
Incision: Right VATs site clean dry intact. no erythema or 
discharge
Skin: bilateral earlobes 1 cm x 1 cm stage II.  Coccyx Stage I
Neuro: awake, alert, oriented, slurred speech
 
Pertinent Results:
___ 07:25AM BLOOD WBC-8.3 RBC-3.31* Hgb-10.4* Hct-30.4* 
MCV-92 MCH-31.5 MCHC-34.3 RDW-14.3 Plt ___
___ 07:45AM BLOOD WBC-7.4 RBC-3.48* Hgb-11.2* Hct-32.6* 
MCV-94 MCH-32.2* MCHC-34.4 RDW-14.1 Plt ___
___ 05:13PM BLOOD WBC-10.7 RBC-4.03* Hgb-12.9* Hct-37.3* 
MCV-93# MCH-31.9 MCHC-34.5 RDW-14.1 Plt ___
___ 03:05PM BLOOD Glucose-107* UreaN-18 Creat-0.7 Na-131* 
K-4.0 Cl-95* HCO3-28 AnGap-12
___ 07:25AM BLOOD Glucose-103* UreaN-16 Creat-0.6 Na-131* 
K-4.0 Cl-95* HCO3-28 AnGap-12
___ 01:58AM BLOOD Glucose-109* UreaN-24* Creat-0.6 Na-135 
K-3.8 Cl-98 HCO3-31 AnGap-10
___ 05:13PM BLOOD Glucose-110* UreaN-25* Creat-0.7 Na-132* 
K-4.7 Cl-94* HCO3-33* AnGap-10
___ 03:05PM BLOOD Mg-2.1

CXR:
___: There is a minimal right basal air collection in the 
pleural 
space. No clear apical pneumothorax is identified. Unchanged 
opacities at 
the left lung base and the entire right lung, but both lungs 
show signs of 
improved aeration. No newly occurred parenchymal opacities. 
Normal size of 
the cardiac silhouette. 
___: Unchanged appearance of parenchymal opacity at the 
bases of the right upper lobe and the atelectasis at both lung 
bases. Minimal right pleural effusion cannot be excluded. 
Unchanged size of the cardiac 
silhouette. No interval appearance of new parenchymal opacities. 

___: 1. Very small right-sided hydropneumothorax with chest 
tube in unchanged position. 
2. Heterogeneous opacification of the right lung with focal 
opacity in the right upper lobe. It is difficult to entirely 
exclude pneumonia but the 
appearance could be seen with post-operative changes including 
atelectasis. 
3. Severe emphysema. 
___: FINDINGS: Very small right apical pneumothorax is 
present with a basilar right chest tube in place. Postoperative 
changes are present within the right mid lung with surgical 
chain sutures. Upper lobe bullous emphysema is present as well 
as a mid and lower lung predominant interstitial process, 
possibly representing acute interstitial edema superimposed on 
underlying emphysema. 

Chest CT:
___: No pulmonary embolus seen. Extensive distortion of the 
pulmonary 
architecture consistent with the patient's known emphysema. 
Areas of 
consolidation along suture lines within the dependent lungs are 
likely 
atelectasis secondary to recent surgery. 
___: 1. Right-sided chest tube with minimal anterior 
right-sided pneumothorax. 
2. Right middle lobe solid, ground-glass nodules, new since the 
prior 
examination. Given the patient's underlying severe diffuse 
emphysematous 
disease, these nodules warrant followup in three months. 
3. Severe atherosclerotic disease of the aorta, and coronary 
vessels. 
4. Gallstones. Ventral mesh, intact. 
  

 
Brief Hospital Course:
Mr. ___ was admitted for right recurrent apical pneumothorax 
on ___. He was taken to the operating room by Dr. 
___ on ___ for a right Video-assisted thoracoscopic 
right apical blebectomy and mechanical and chemical (1 gram 
doxycycline) pleurodesis.  He was extubated in the operating 
room and transferred to the PACU.  While in the PACU he 
desaturated to the mid 80's his PCO2 was 77%.  He transferred to 
the intensive care unit for observation. He was slightly 
confused, with two chest tubes to wall suction for over 48 
hours.  The patient was transferred to the floor on ___. 
Below is a systems review of his hospital course.

Neuro: The patient's ___ medications were continued. His 
PCP and geriatrics followed him while in house. He developed 
delirium in the ICU. Geriatrics was consulted followed him 
throughout his hospital course and recommended, continue his 
home dose of Ativan 0.5 BID and Seroquel 12.5 for acute 
agitation. No Haldol since would make his ___ worse. 
Ultram and acetaminophen, Lidoderm patch for pain.  No morphine 
secondary to confusion with this narcotics. His delirium 
improved. 

Pulmonary:  Pulmonary toilet with incentive spirometry, 
nebulizers, and mucolytics were continued. The patient had a 
good productive yellow cough. The patient's oxygen saturations 
were kept in the low 90's initially with shovel mask transition 
ed to 4 L Nasal cannula.  On ___ his saturations decreased 
a Chest CT was negative for Pulmonary Embolism.

Chest-tubes: On POD 3, the anterior chest tube was discontinued 
with posterior chest tube kept to water seal. CXR was stable, 
however small leak persisted. gram right talc pleurodesis and 
chest tubes to wall suction for 48 hours.  The chest tube was 
clamped on ___ follow-up chest film showed no pneumothorax. 
The chest tube was removed.

Serial chest films: see above report.

CV: He was found to tachycardic in the ICU and low-dose 
beta-blocker was started.  He converted to PO with HR 70-90's.  
Once stabilized the beta-blocker was titrated off given his 
history of severe COPD.  His home dose of felodipine of 5 mg was 
continue on admission but decreased to 2.5 mg to allow BP 
greater than 110 for cerebral perfusion. 

Abd: Stool softeners were given throughout his stay. The 
patients diet was advanced and tolerated, however he had poor 
appetite. Ensure supplemental shakes were continued. The patient 
had adequate bowel movements. 

GU/renal: Foley was removed following surgery.  Initially he had 
low urine output responded to fluid bolus.  Hyponatremia with 
Na+ 131. monitored closely.

ID: no fevers or leukocytosis.

Heme: HCT stable ___.

Prophylaxis: SCD's and SQ heparin were instituted for VTE 
prophylaxis.

Disposition: he was followed by physical therapy who recommended 
rehab.  He was discharged to ___ Rehab in ___ 
___ on ___.  He will follow-up with Dr. ___ as an 
outpatient.

 
Medications on Admission:
Symbicort 160/4.5 2 puffs twice daily
Guaifenesin 600 mg bid
Carbidopa/levodopa ___ twice daily
Omeprazole 40 mg daily
Tiotropium bromide 1 capsule daily
Felodipine 5 mg daily
Naprosyn 500 twice daily
Acetylcysteine & albuterol nebs QID
PRN: Senna, Ativan 0.5 Q6, MSO4 0.5 SL Q4, ___ IV Q4, bisacodyl
10

 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. heparin (porcine) 5,000 unit/mL Solution Sig: One (1) SQ 
Injection TID (3 times a day).  
3. fluticasone 110 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
4. guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO BID (2 times a 
day) as needed for SOB.  
5. senna 8.6 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) as 
needed for constipation.  
6. carbidopa-levodopa ___ mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
7. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
9. acetylcysteine 20 % (200 mg/mL) Solution Sig: Three (3) ML 
Miscellaneous Q6H (every 6 hours) as needed for wheezing: mix 
with albuterol to prevent bronchospasm.  
10. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: Three (3) mL Inhalation Q4H (every 4 hours) as 
needed for wheezing/SOB.  
11. felodipine 2.5 mg Tablet Sustained Release 24 hr Sig: One 
(1) Tablet Sustained Release 24 hr PO DAILY (Daily): increase to 
5 mg as BP tolerates.  
12. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q 8H 
(Every 8 Hours).  
13. lorazepam 0.5 mg Tablet Sig: 0.5 Tablet PO BID (2 times a 
day).  
14. bisacodyl 10 mg Suppository Sig: One (1) Suppository Rectal 
HS (at bedtime) as needed for constipation.  
15. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) patch Topical once a day: Right shoulder.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right apical recurrent pneumothorax s/p right apical blebectomy 
with pleurodiesis. 
Right Lower lobe lung nodule s/p R VATs wedge for Squamous cell 
___ 
Left pneumothorax s/p L VATs blebectomy pleurodesis ___ 
Severe chronic obstructive pulmonary disease on home 02 3L 
___ disease 
Hypertension 
Diverticulosis 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Call Dr. ___ office at ___ if you experience: 

-Fevers greater than 101.5, chills
-Increased shortness of breath, cough or chest pain
-Incision develops drainage
-Chest tube site remove dressing ___ and cover with a 
bandaid until healed.
-Should site drain cover with a clean dry dressing and change as 
needed
-Shower daily. Wash incision with mild soap, rinse, pat dry

-Oxygen titrate to maintain saturations 88-90%

 
Followup Instructions:
___